Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Incidental thoracic aortic pseudoaneurysm,
Hyperkalemia
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
___ yo man with PMH of ESRD ___ HTN) on HD and neuropathy,
transferred from ___ for an incidentally
found thoracic aortic pseudoaneurysm. 

He initially presented to ___ after sustaining an unwitnessed
mechanical fall yesterday in the bathroom at home, after 
slipping
in the shower. He hit his head but did not lose consciousness. 
He
was unable to get up due to his neuropathy (and uses a walker at
baseline for this), so he called for help. The assisted living
facility brought him into the ED per their protocol. He has mild
dyspnea on exertion (after climbing ___ stairs) at baseline, but
it has not worsened over the past few days. He denies chest 
pain,
palpitations, dizziness, or lightheadedness. He does have 
chronic
low back pain, but it has not worsened since the fall. No new
weakness, urinary or fecal incontinence, saddle anesthesia, or
worsening of his baseline numbness/tingling. CT performed at ___
revealed thoracic aortic pseudoaneurysm, so he was transferred 
to
___ for possible surgical intervention.

Of note, he is originally from ___, but moved to ___ 2
weeks ago because access to HD has been limited due to lack of
electricity after the recent ___. He has been receiving HD
at ___ since his arrival in ___, and had an HD appointment
scheduled for 4pm on the day of admission. He has been on HD for
___ years.

In the ED, initial vital signs were: 98.0 75 125/68 18 94% RA 

Exam notable for:  
- Cardio: Normal S1, S2, regular rate and rhythm, ___ systolic
flow murmur, no rubs/gallops, 2+ peripheral pulses bilaterally
- Pulm: Clear to auscultation bilaterally
- Extremities: No lower leg edema
- MSK: No chest wall tenderness, midline tenderness in the
L-spine

Labs were notable for:
- K 6.3 -> 5.9 on recheck
- BUN 45, Cr 5.6, AG 19
- Hgb 12.6

Studies performed include:
EKG: Rate 66, NSR, no peaked T waves. Normal PR interval. QTc
454.

CTA Chest/Abdomen/Pelvis
1. Focal outpouching arising from the superior aspect of the
aortic arch just distal to the origin of the left subclavian
artery, measuring approximately 5.8 x 4.1 x 2.2 cm beyond the
expected wall of the aorta, and compatible with pseudoaneurysm.
There is no evidence of dissection or intramural hematoma.
2. Extensive atherosclerotic disease, including calcification at
the origin of the renal arteries resulting in severe stenosis of
the right greater than left renal artery.
3. Intravenous infusion of contrast at the right antecubital
demonstrates contrast opacification of multiple collaterals of
the right chest wall, however no opacification of the superior
vena cava, suggestive of chronic occlusive thrombus.
4. Small bilateral pleural effusions, mild bibasilar 
atelectasis,
and
interlobular septal thickening, which may be suggestive of
pulmonary edema.
5. Nodular-appearing liver, compatible with chronic liver
disease.
6. Severely atrophic kidneys within innumerable simple-appearing
cysts.

Patient was given:
___ 10:17 IV Morphine Sulfate 4 mg 
___ 11:49 IV Dextrose 50% 25 gm  
___ 11:58 IV Insulin (Regular) for Hyperkalemia 10 units
___ 13:32 IV Dextrose 50% 25 gm 
___ 15:19 IVF  ___ ( 1000 mL ordered) Started 100
mL/hr 

Consults:
- Vascular surgery, who recommended outpatient follow up.
- Renal, who recommended urgent inpatient HD for hyperkalemia,
given that the patient missed his outpatient dialysis 
appointment
while in the ED.

Vitals on transfer:  64 112/47 15 99%  

Upon arrival to the floor, the patient was receiving bedside HD.
He had no acute complaints, denied headache, vision changes,
chest pain, shortness of breath, abdominal pain. Has numbness 
and
tingling in the bilateral hands and feet at baseline (does not
recall the cause).
 
Past Medical History:
- HTN
- ESRD ___ HTN, on HD
- Secondary hyperparathyroidism
- Gastric ulcers
- Chronic lower back pain
 
Social History:
___
Family History:
- Not pertinent to presenting problem.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITALS: 97.8 151/66 74 16 95% RA    
___: Alert and interactive.  ___ speaking, but also
speaks good ___. In no acute distress.
HEENT: Normocephalic, atraumatic. Pupils equal, round, and
reactive bilaterally, extraocular muscles intact. Sclera
anicteric and without injection. Moist mucous membranes, good
dentition. Oropharynx is clear and without visible lesions.  
NECK: No JVD.  
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. ___
blowing systolic murmur audible throughout precordium, but best
heard at LUSB.
LUNGS: Clear to auscultation bilaterally w/appropriate breath
sounds appreciated in all fields. No wheezes, rhonchi or rales.
Breathing comfortably on RA.
BACK: Mild spinal tenderness at midline to mid-back. 
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.  
EXTREMITIES: No clubbing, cyanosis, or edema. Cool extremities 
at
ankles. DP and ___ pulses faint but palpable bilaterally.
SKIN: Warm. No rash.
NEUROLOGIC: CN2-12 intact. ___ strength in proximal and distal
bilateral upper extremities. 4+/5 strength at L hip flexor, ___
strength at R hip flexor. Sensation to light touch grossly 
intact
and symmetrical in bilateral upper and lower extremity. AOx3.

DISCHARGE PHYSICAL EXAM:
VITALS: 98.0 133 / 64 72 16 96 Ra   
___: Alert and interactive. In no acute distress.
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Sclera anicteric
and without injection. MMM. 
NECK: No JVD.  
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. ___
blowing systolic murmur audible throughout precordium, but best
heard at RUSB.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. Breathing comfortably on RA.
BACK: No spinal tenderness to palpation.  
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.  
EXTREMITIES: No clubbing, cyanosis, or edema. Cool extremities 
at
ankles.
SKIN: Warm. No rash.
NEUROLOGIC: Moving all extremities with purpose. AOx3.
 
Pertinent Results:
ADMISSION LABS:
======================
___ 11:09AM BLOOD WBC-6.6 RBC-3.76* Hgb-12.6* Hct-38.4* 
MCV-102* MCH-33.5* MCHC-32.8 RDW-15.2 RDWSD-56.1* Plt ___
___ 11:09AM BLOOD Neuts-64.2 Lymphs-15.3* Monos-13.5* 
Eos-5.9 Baso-0.8 Im ___ AbsNeut-4.22 AbsLymp-1.01* 
AbsMono-0.89* AbsEos-0.39 AbsBaso-0.05
___ 09:35AM BLOOD Glucose-86 UreaN-45* Creat-5.6* Na-143 
K-6.3* Cl-98 HCO3-26 AnGap-19*
___ 09:35AM BLOOD CK(CPK)-49
___ 09:35AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG
___ 09:35AM BLOOD HCV Ab-NEG

DISCHARGE LABS:
=======================
___ 06:45AM BLOOD WBC-6.2 RBC-3.67* Hgb-12.2* Hct-37.7* 
MCV-103* MCH-33.2* MCHC-32.4 RDW-15.7* RDWSD-56.4* Plt ___
___ 06:45AM BLOOD Glucose-69* UreaN-32* Creat-4.7* Na-140 
K-5.7* Cl-97 HCO3-27 AnGap-16
___ 06:45AM BLOOD Calcium-9.9 Phos-5.1* Mg-2.3 Cholest-173
___ 07:14AM BLOOD %HbA1c-4.5 eAG-82
___ 06:45AM BLOOD Triglyc-69 HDL-81 CHOL/HD-2.1 LDLcalc-78
___ 06:45AM BLOOD TSH-1.9
___ 06:45AM BLOOD PTH-2569*
___ 06:45AM BLOOD Free T4-1.0
___ 06:45AM BLOOD 25VitD-31

IMAGING/RESULTS:
=======================
CT-A ___:
IMPRESSION:
1. Focal outpouching arising from the superior aspect of the 
aortic arch just
distal to the origin of the left subclavian artery, measuring 
approximately
5.8 x 4.1 x 2.2 cm beyond the expected wall of the aorta, and 
compatible with
pseudoaneurysm.  There is no evidence of dissection or 
intramural hematoma. 
No mediastinal hematoma.
2. Extensive atherosclerotic disease, including calcification at 
the origin of
the renal arteries resulting in severe stenosis of the right 
greater than left
renal artery.
3. Intravenous infusion of contrast at the right antecubital 
demonstrates
contrast opacification of multiple collaterals of the right 
chest wall,
however no opacification of the superior vena cava, suggestive 
of chronic
occlusion.
4. Small bilateral pleural effusions, mild bibasilar 
atelectasis, and
interlobular septal thickening, which may be suggestive of 
pulmonary edema.
5. Nodular-appearing liver, compatible with chronic liver 
disease.
6. Severely atrophic kidneys within innumerable simple-appearing 
cysts.
 
Brief Hospital Course:
___ year old male with PMH of ESRD ___ HTN on HD, HTN, and 
neuropathy, who initially presented to ___ after a fall, 
thoracic aortic aneurysm incidentally found on CT, transferred 
to ___ for possible surgical management (deferred to 
outpatient eval). Ultimately admitted to ___ for HD i/s/o 
hyperkalemia to 6.3.

ACUTE ISSUES:
===============
#Hyperkalemia
#ESRD on HD, ___ HTN
Patient with hyperkalemia to 6.3 on admission, still elevated at 
5.9 on recheck. No EKG changes. Admitted for urgent HD given 
this hyperkalemia, after missing his outpatient appointment 
while in the ED. Recently moved to ___ from ___ due to 
difficulty getting HD after hurricane. Patient received 2 HR HD 
session on ___ and full HD session on ___ with improvement 
in potassium. He was kept on nephrocaps daily. He was kept on 
low K/Phos diet and 1.5L fluid restriction. He is scheduled for 
his next HD session on ___ at ___. 

#Thoracic aortic pseudoaneurysm
Thoracic aortic pseudoaneurysm identified incidentally on CT 
after patient presented to ___ s/p mechanical fall. Evaluated by 
vascular surgery and cardiac surgery in the ED, who recommended 
outpatient follow up. Patient is scheduled to be evaluated by 
both services on ___.

#Mechanical fall
Patient initially presented to ___ after mechanical fall with 
head strike, having slipped in the shower. No acute findings on 
head CT. CT L-spine reportedly showed lumbar foraminal 
narrowing, but patient currently without focal deficits. ___ 
evaluated patient and recommended discharge to home with ___ 
visits. 

CHRONIC/RESOLVED ISSUES:
=========================
#HTN
Patient with history of hypertension. Per patient, he takes a 
clonidine only when he notices that his BP is high upon checking 
it at home. His clonidine was held given concerns for rebound 
HTN due to inconsistency of taking the medication. 

#Chronic LBP
Continued on home Tylenol

#Hypoglycemia s/p insulin for hyperkalemia - resolved
Patient became hypoglycemic to 74 after receiving insulin for 
hyperkalemia in the ED. Was started on ___ NS ggt, with 
improvement in BG to 94. BG improved with initiation of diet. 

#Secondary hyperparathyroidism
Per patient, was previously on Sensipar, but not taking 
currently. PTH elevated to 2569. Will need to be restarted on 
sensipar as outpatient. 

TRANSITIONAL ISSUES:
=========================
New Medications:
- Nephrocaps 1 CAP PO/NG DAILY 
- Sarna Lotion 1 Appl TP TID:PRN itching 

Stopped Medications: 
- cloNIDine HCl 0.1 mg oral QHS 

Labs:
25VitD: 31
Triglyc: 69, HDL 81, Cholesterol 173, CHOL/HD: 2.1, LDLcalc: 78
CMP: Na 140, K 5.7, Cl 97, HCO3 27, BUN 32, Cr 4.7, Glu 69, Ca 
9.9, M 2.3, PO4 5.2, 
TSH: 1.9
Free T4: 1.0
HbA1c: 4.5
CBC: WBC 6.2, Hgb 12.2, Hct 37.7, Plt 226
PTH 2569

[ ] Continue evaluation of thoracic aortic pseudoaneurysm with 
vascular and cardiac surgery - scheduled for outpatient follow 
up on ___
[ ] Continue to work with social worker to establish care with a 
primary care physician
[ ] Continue with HD on ___ at ___
[ ] Consider alternative anti-hypertensive medication if BP 
remains elevated

#CODE: FULL (confirmed)
#CONTACT: ___ (Son) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 
2. DiphenhydrAMINE 50 mg PO WITH HD 
3. cloNIDine HCl 0.1 mg oral QHS 
4. Acetaminophen 325 mg PO Q6H:PRN Pain - Mild 

 
Discharge Medications:
1.  Nephrocaps 1 CAP PO DAILY 
RX *B complex with C#20-folic acid [Nephrocaps] 1 mg 1 
capsule(s) by mouth daily Disp #*30 Capsule Refills:*0 
2.  Sarna Lotion 1 Appl TP TID:PRN itching 
RX *camphor-menthol [Sarna Anti-Itch] 0.5 %-0.5 %  three times a 
day Refills:*0 
3.  Acetaminophen 325 mg PO Q6H:PRN Pain - Mild  
4.  DiphenhydrAMINE 50 mg PO WITH HD  
5.  Omeprazole 20 mg PO DAILY  
6. HELD- cloNIDine HCl 0.1 mg oral QHS  This medication was 
held. Do not restart cloNIDine HCl until you talk with your 
primary care doctor

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
PRIMARY DIAGNOSES:
Hyperkalemia
ESRD on HD
Thoracic aortic pseudoaneurysm
Mechanical Fall

SECONDARY DIAGNOSES:
Hypertension
Chronic low back pain
Hypoglycemia s/p insulin for hyperkalemia
Secondary hyperparathyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

Thank you for choosing ___ for 
your site of care!

Why was I admitted to the hospital?
-You were admitted because you were found to have a high 
potassium.

What was done for me while I was in the hospital?
-You had two sessions of dialysis to decrease your potassium 
-You had imaging of your chest which showed an enlargement of 
one of the blood vessels leaving your heart. The vascular 
surgery and cardiac surgery teams evaluated you and will follow 
up with you as an outpatient. 

What should I do when I leave the hospital?
-You should take all of your medications as prescribed. 
-You should follow up with your doctors as ___ below. 
-Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
-Continue with scheduled dialysis sessions at ___. 

We wish you the best!

Your ___ treatment team
 
Followup Instructions:
___